US04533655
Diisopropylethylamine (1.29 g.), then diphenylphosphinic chloride (2.37 g.), were added to a solution of N-benzyloxycarbonyl-O-benzyl-L-tyrosine (4.05 g.) in tetrahydrofuran (30 ml.) maintained at -20° C., and the mixture was stirred at that temperature for 10 minutes. A solution of N-methyl-D-alanine methyl ester hydrobromide (1.98 g.) in tetrahydrofuran (20 ml.) was then added, followed by diisopropylethylamine (1.29 g.). The mixture was stirred for two hours at 0° C., then overnight at room temperature, then filtered, stripped of volatiles and distributed between ethyl acetate and aqueous citric acid (5%). The ethyl acetate layer was washed with water, saturated aqueous sodium bicarbonate, water again and saturated aqueous sodium chloride, then dried over magnesium sulfate and concentrated to a yellow gum (about 6 g.). Purification of the yellow gum by high pressure liquid chromatography on silica gel (350 g.) using hexane-ethyl acetate (7:3) as the eluant afforded (N-benzyloxycarbonyl-O-benzyl-L-tyrosyl)-N-methyl-D-alanine methyl ester as a clear gum (3.2 g.) containing about a one-sixth molar amount of ethyl acetate as shown by NMR spectral analysis.

reactant | Diisopropylethylamine | 1.29 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphenylphosphinic chloride | 2.37 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | N-benzyloxycarbonyl-O-benzyl-L-tyrosine | 4.05 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O | C24H23NO5
reactant | N-methyl-D-alanine methyl ester hydrobromide | 1.98 g | Br.COC([C@H](NC)C)=O
reactant | diisopropylethylamine | 1.29 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (N-benzyloxycarbonyl-O-benzyl-L-tyrosyl)-N-methyl-D-alanine methyl ester | COC([C@H](N(C)C([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)C)=O | C29H32N2O6
